US08076336B2
1-[3-tert-Butyl-5-(3,3,3-trifluoropropoxy)phenyl]ethanone
To a solution of 1-(3-tert-butyl-5-hydroxyphenyl)ethanone (O3.106; 300 mg, 1.56 mmol), 3,3,3-trifluoropropanol (178 mg, 1.56 mmol) and triphenylphosphine (409 mg, 1.56 mmol) in dichloromethane (5 ml) at RT was added a solution of di(4-chlorobenzyl) azodicarboxylate (573 mg, 1.56 mmol) in dichloromethane (1 ml). The mixture was stirred for 5 days and then filtered. The solvent was removed and the residue was purified by flash chromatography (n-heptane:ethyl acetate). Yield: 170 mg, 38%.

reactant | 1-(3-tert-butyl-5-hydroxyphenyl)ethanone | 1.56 mmol, 300 mg | C(C)(C)(C)C=1C=C(C=C(C1)O)C(C)=O | C12H16O2
reactant | 3,3,3-trifluoropropanol | 1.56 mmol, 178 mg | FC(CCO)(F)F | C3H5F3O
reactant | triphenylphosphine | 1.56 mmol, 409 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di(4-chlorobenzyl) azodicarboxylate | 1.56 mmol, 573 mg | N(=NC(=O)OCC1=CC=C(C=C1)Cl)C(=O)OCC1=CC=C(C=C1)Cl | C16H12Cl2N2O4
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 1-[3-tert-Butyl-5-(3,3,3-trifluoropropoxy)phenyl]ethanone | C(C)(C)(C)C=1C=C(C=C(C1)OCCC(F)(F)F)C(C)=O | C15H19F3O2
